US04578392
2-Isopropyl-3-methoxymethylpyrazolo[1,5-a]pyridine
To a cold solution of 2.0 g of 2-isopropyl-3-formylpyrazolo[1,5-a]pyridine in 60 ml of methanol were added in small portions 2.0 g of sodium borohydride under cooling and stirring. The mixture was heated to reflux for 2 hours and after cooling, concentrated in vacuo. Water was added to the residue and the mixture was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and concentrated to give an oily residue, weighing 2.2 g. The residue in 5 ml of dry tetrahydrofuran was added to a suspension of 1.53 g of sodium hydride (55% oil suspension) in 10 ml of dry tetrahydrofuran under stirring and cooling. The mixture was stirred at room temperature for 5 minutes and then at reflux temperature for 15 minutes. After cooled under ice-water, 5.0 g of methyl iodide were added to the mixture. The mixture was stirred at toom temperature for an hour, followed by addition of aqueous 20% ammonium chloride, and extracted with ether. The ether layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated to dryness. The residue was subjected to silica gel column chromatography, eluted with dichloromethane, to give 1.2 g (55%) of the desired compound as pale yellow oil.

reactant | 2-isopropyl-3-formylpyrazolo[1,5-a]pyridine | 2.0 g | C(C)(C)C1=NN2C(C=CC=C2)=C1C=O | C11H12N2O
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
reactant | sodium hydride | 1.53 g | [H-].[Na+]
reactant | methyl iodide | 5.0 g | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 60 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Isopropyl-3-methoxymethylpyrazolo[1,5-a]pyridine | 1.2 g, 55% | C(C)(C)C1=NN2C(C=CC=C2)=C1COC | C12H16N2O
